US06716851B2
4-(5-Hydroxy-2-isopropylanilino)-2-(2-pyrazinyl)-6-trifluoromethypyrimidine
The title compound was prepared from 4-chloro-2-(2-pyrazinyl)-6-trifluoromethylpyrimidine (30 mg, 0.115 mmol) and 5-hydroxy-2-isopropylaniline (26 mg, 0.173 mmol) similar to Example 190 and was isolated as a solid. 1H NMR (CDCl3): 9.75 (d, J=1.2 Hz, 1H), 8.77 (t, J=1.8 Hz, 1H), 8.72 (d, J=2.7 Hz, 1H), 7.29 (brs, 1H), 7.27 (s, 1H), 6.91 (dd, J=8.4, 2.4 Hz, 1H), 6.79 (d, J=2.7 Hz, 1H), 6.70 (s, 1H), 4.13 (sep, J=6.9 Hz, 1H), 1.20 (d, J=6.9 Hz, 6H).

reactant | 4-chloro-2-(2-pyrazinyl)-6-trifluoromethylpyrimidine | 0.115 mmol, 30 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C1=NC=CN=C1 | C9H4ClF3N4
reactant | 5-hydroxy-2-isopropylaniline | 0.173 mmol, 26 mg | OC=1C=CC(=C(N)C1)C(C)C | C9H13NO
product | 4-(5-Hydroxy-2-isopropylanilino)-2-(2-pyrazinyl)-6-trifluoromethypyrimidine | OC=1C=CC(=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=NC=CN=C2)C1)C(C)C | C18H16F3N5O
